US07872009B2
Step 1: (±)-4-tert-Butyl 2-ethyl 2,3-dihydrobenzo[b][1,4]oxazine-2,4-dicarboxylate
DMAP (3.2 mg, 0.026 mmol), Hunig's base (150 □L, 0.86 mmol), and Boc2O (154 mg, 0.70 mmol) were added to a solution of (±)-Ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate (112 mg, 0.54 mmol) in dichloromethane (4 mL). The solution was stirred at 25° C. for 24 h. The reaction mixture was dissolved in dichloromethane (60 mL), and the organic layer was extracted with 0.5 M sodium carbonate (7 mL) and half-saturated brine (7 mL), dried over sodium sulfate, and concentrated. Purification of the product by flash column chromatography (10% to 20% EtOAc/hexane) afforded the title compound (31 mg, 0.10 mmol). MS m/z: 252 (M+1 of carbamic acid).

reactant | Hunig's base | 0.86 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 0.70 mmol, 154 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (±)-Ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | 0.54 mmol, 112 mg | O1C2=C(NCC1C(=O)OCC)C=CC=C2 | C11H13NO3
catalyst | DMAP | 0.026 mmol, 3.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (±)-4-tert-Butyl 2-ethyl 2,3-dihydrobenzo[b][1,4]oxazine-2,4-dicarboxylate | 0.10 mmol, 31 mg | O1C2=C(N(CC1C(=O)OCC)C(=O)OC(C)(C)C)C=CC=C2 | C16H21NO5
